US05830871
Synthesis of tribenzyl methyl α-L-fucopyranoside (intermediate to L-fucose C-glycoside template FIG. 3)
To a solution of methyl α-L-fucopyranoside (1.96 g, 9.61 mmol; Aldrich, Sigma), BnBr (8 mL, 67.3 mmol; benzyl bromide), and TBAI (177 mg, 048 mmol; tetrabutylammonium iodide; Aldrich) in THF (20 mL; tetrahydrofuran) at 0° C. was added NaH (2.35 g, 57.6 mmol). The cooling bath was removed and the reaction mixture was allowed to stir for 24 h. The reaction was diluted with EtOAc (50 mL; ethyl acetate) and poured into a saturated NH4Cl solution (50 mL). The aqueous phase was extracted with EtOAc (2×30 mL) and the combined organic phases were dried (MgSO4) and concentrated under reduced pressure providing the crude oil. Purification by silica gel flash chromatography (hexane:EtOAc, 100% to 9:1 to 1:1) gave the desired product in excellent yield (5.0 g, 92%).

reactant | methyl α-L-fucopyranoside | 9.61 mmol, 1.96 g | O([C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)C | C7H14O5
reactant | BnBr | 67.3 mmol, 8 mL | C1=CC=C(C=C1)CBr | C7H7Br
reactant | NaH | 57.6 mmol, 2.35 g | [H-].[Na+]
catalyst | TBAI | 177 mg | CCCC[N+](CCCC)(CCCC)CCCC.[I-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | tribenzyl methyl α-L-fucopyranoside | O([C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)C(CC1=CC=CC=C1)(CC1=CC=CC=C1)CC1=CC=CC=C1 | C28H32O5
